US09085540B2
To a mixture of 3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (645 mg) and pyridine (3.87 mL) was added cuprous cyanide (219 mg), followed by heating and refluxing for 5 hours. Cuprous cyanide (328 mg) was further added thereto, followed by heating and refluxing for 15 hours. The reaction mixture was left to be cooled, and then a mixed solvent (10:1:0.1) of chloroform:methanol:28% aqueous ammonia was added thereto. A saturated aqueous sodium hydrogen carbonate solution was further added thereto, followed by stirring, and then the insoluble matter was separated by filtration. The filtrate was subjected to liquid separation, and then the organic phase was dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform:methanol:28% aqueous ammonia=1:0:0-20:1:0.1) to obtain 3-{[3-cyano-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (68 mg) as a yellow solid.

reactant | 3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 645 mg | BrC=1C=C(C=CC1N1CCN(CC1)C)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C22H22BrN7O4
reactant | pyridine | 3.87 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonia | N | H3N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-{[3-cyano-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 68 mg | C(#N)C=1C=C(C=CC1N1CCN(CC1)C)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C23H22N8O4
